US06878728B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (351)
A solution of 0.60 g (0.95 mmol) of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate in 5 mL of 1,4-dioxane was treated with 0.25 mL of water followed by 5 mL of 4N HCl in 1,4-dioxane and the resulting solution was stirred at RT. After 1.5 hours the solution was diluted with 25 mL of CH2Cl2 and the pH adjusted to approximately 12 by addition of 1N aqueous NaOH. The mixture was diluted with water and extracted with CH2Cl2 (3×). The combined CH2Cl2 extracts were washed with aqueous brine (3×), dried over MgSO4, and concentrated in vacuo. The residue was subjected to flash chromatography (SiO2, 8:2 EtOAc/hexane) to afford the desired compound as a white solid in 81% yield. 1H NMR (CDCl3): 7.29 (dd, 1H), 7.13 (s, 1H), 7.01 (d, 2H), 6.85 (d, 2H), 6.70 (d, 2H), 6.05 (s, 2H), 5.61 (d, 1H), 5.01 (m, 2H), 3.92 (dd, 1H), 3.80 (m, 4H), 3.68 (m, 2H), 3.08 (dd, 1H), 2.91 (m, 5H), 2.81-2.62 (m, 2H), 1.80 (m, 1H), 1.64 (m, 1H), 1.47 (m, 1H), 0.90 (d, 3H), 0.82 (d, 3H). MS(ESI): 593(M+H).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (4S,5R)-5-{[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]methyl}-4-(4-hydroxybenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 0.95 mmol, 0.60 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(CC(C)C)C[C@@H]2[C@@H](N(C(O2)(C)C)C(=O)O[C@H]2CO[C@H]1OCC[C@H]12)CC1=CC=C(C=C1)O | C31H40N2O10S
reactant | HCl | 4N, 5 mL | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | water | 0.25 mL | O | H2O
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 81% yield | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
